US04053651
N-(3-Mercaptopropanoyl)-N-methyl-L-leucine
By substituting N-methyl-L-leucine for the L-alanine in the procedure of Example 1, and then treating the product by the procedure of Example 2, N-(3-benzoylthiopropanoyl)-N-methyl-L-leucine, and N-(3-mercaptopropanoyl)-N-methyl)-L-leucine are obtained.

reactant | N-methyl-L-leucine | CN[C@@H](CC(C)C)C(=O)O | C7H15NO2
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | N-(3-benzoylthiopropanoyl)-N-methyl-L-leucine | C(C1=CC=CC=C1)(=O)SCCC(=O)N([C@@H](CC(C)C)C(=O)O)C | C17H23NO4S
reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
product | N-(3-Mercaptopropanoyl)-N-methyl-L-leucine | SCCC(=O)N([C@@H](CC(C)C)C(=O)O)C | C10H19NO3S
